US06638321B1
a) Preparation of (3-Imidazol-1-ylproyl)-(4-nitrophenyl)amine
A mixture of 28.2 g (0.2 mol) of 1-fluoro-4-nitrobenzene, 31.3 g (0.25 mol) of 3-imidazol-1-ylpropylamine and 34.8 ml of triethylamine in 30 ml of 1,2-dimethoxyethane was heated for half an hour with stirring. The mixture was poured into 1.5 liters of ice-cold water and the crystalline precipitate was filtered off, reimpasted in water and then in isopropyl alcohol and dried under vacuum at 40° C. over phosphorus pentoxide. Yellow crystals (36.6 g) which, after purification by recrystallization from refluxing 96° ethanol, melted at 124° C., were obtained, the elemental analysis of which, calculated for C12H14N4O2, was:

reactant | 1-fluoro-4-nitrobenzene | 0.2 mol, 28.2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-imidazol-1-ylpropylamine | 0.25 mol, 31.3 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | triethylamine | 34.8 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
product | (3-Imidazol-1-ylproyl)-(4-nitrophenyl)amine | N1(C=NC=C1)CCCNC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N4O2
